US07176224B2
A mixture of 2-(3,4-difluoro-phenoxy)-3-(4-hydroxyphenyl)-2-methyl-propionic acid ethyl ester (0.030 mmol), toluene-4-sulfonic acid 2-(5-methyl-2-biphenyl-4-yl-oxazol-4-yl)ethyl ester (0.030 mmol) (see Ex. 1, Part I) and 325 mesh K2CO3 (0.084 g, 0.60 mmol) in ethanol (2 mL) was heated to reflux for 24 h under N2. Aqueous 5N NaOH (0.5 mL) and additional ethanol (1 mL) was added to the reaction mixture and it was heated at reflux for an additional 2 h. The reaction was cooled and the solvent removed in vacuo. The residue was acidified with aqueous 1 N HCl (5 mL), extracted with water and CH2Cl2 and the organic layer dried by passing it through a Varian Chem Elut 1003 cartridge. The solvent was removed in vacuo to give 3-{4-[2-(2-biphenyl-4-yl-5-methyl-oxazol-4-yl)-ethoxy]-phenyl}-2-(3,4-difluoro-phenoxy)-2-methyl-propionic acid. 1H NMR (400 MHz, CDCl3) δ 8.05 (d, 2H, J=8.4 Hz), 7.36 (d, 2H, J=8.4 Hz), 7.63 (dd, 2H, J=7.6, 1.2 Hz), 7.49–7.45 (m,2H), 7.41–7.37 (m, 1H), 7.18 (d, 2H, J=8.8 Hz), 7.00 (q, 1H, J=9.5 Hz), 6.84 (d, 2H, J=8.8 Hz), 6.76 (ddd, 1H, J=11.2, 6.4, 2.8 Hz), 6.64–6.59 (m, 1H), 4.22 (t, 2H, J=6.2 Hz), 3.23 and 3.11 (d of ABq, 2H, J=14.0 Hz), 3.07 (t, 2H, J=6.2 Hz), 2.44 (s, 3H), 1.39 (s, 3H).

reactant | 2-(3,4-difluoro-phenoxy)-3-(4-hydroxyphenyl)-2-methyl-propionic acid ethyl ester | 0.030 mmol | C(C)OC(C(CC1=CC=C(C=C1)O)(C)OC1=CC(=C(C=C1)F)F)=O | C18H18F2O4
reactant | toluene-4-sulfonic acid 2-(5-methyl-2-biphenyl-4-yl-oxazol-4-yl)ethyl ester | 0.030 mmol | CC1=C(N=C(O1)C1=CC=C(C=C1)C1=CC=CC=C1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C25H23NO4S
reactant | K2CO3 | 0.60 mmol, 0.084 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaOH | 5N, 0.5 mL | [OH-].[Na+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 3-{4-[2-(2-biphenyl-4-yl-5-methyl-oxazol-4-yl)-ethoxy]-phenyl}-2-(3,4-difluoro-phenoxy)-2-methyl-propionic acid | C1(=CC=C(C=C1)C=1OC(=C(N1)CCOC1=CC=C(C=C1)CC(C(=O)O)(C)OC1=CC(=C(C=C1)F)F)C)C1=CC=CC=C1 | C34H29F2NO5
